US07851473B2
N-(3,4-Dimethylisoxazol-5-yl)-4-(4-phenyl-1,3-thiazol-2-yl)piperazine-1-carboxamide
A mixture of 2,2,2-trichloroethyl (3,4-dimethylisoxazol-5-yl)carbamate (258 mg, 0.897 mmol), 1-(4-phenyl-1,3-thiazol-2-yl)piperazine (200 mg, 0.815 mmol) and diisopropylethylamine (0.156 ml, 0.897 mmol) in dimethylsulfoxide (2.7 ml) was stirred at 70° C. for 3 hours. Water was poured into the reaction mixture and the mixture was extracted with ethyl acetate. The extract was washed with water and dried over anhydrous magnesium sulfate and the solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography (hexane:ethyl acetate=1:1) and recrystallized from a mixed solvent of hexane and tetrahydrofuran to obtain the desired product (43.1 mg, 13.8%) as a solid.

reactant | 2,2,2-trichloroethyl (3,4-dimethylisoxazol-5-yl)carbamate | 0.897 mmol, 258 mg | CC1=NOC(=C1C)NC(OCC(Cl)(Cl)Cl)=O | C8H9Cl3N2O3
reactant | 1-(4-phenyl-1,3-thiazol-2-yl)piperazine | 0.815 mmol, 200 mg | C1(=CC=CC=C1)C=1N=C(SC1)N1CCNCC1 | C13H15N3S
reactant | diisopropylethylamine | 0.897 mmol, 0.156 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | Water | O | H2O
solvent | dimethylsulfoxide | 2.7 ml | CS(=O)C | C2H6OS
product | N-(3,4-Dimethylisoxazol-5-yl)-4-(4-phenyl-1,3-thiazol-2-yl)piperazine-1-carboxamide | 43.1 mg, 13.8% | CC1=NOC(=C1C)NC(=O)N1CCN(CC1)C=1SC=C(N1)C1=CC=CC=C1 | C19H21N5O2S
